US07754200B2
1-pentadecene-5-phosphonic acid diethyl ester
A solution of 4-pentenyl phosphonic acid diethyl ester (2.832 g, 13.7 mmol) in anhydrous tetrahydrofuran (20 mL) and cooled to about −78° C. A 1.3 M solution of sec-butyl lithium in cyclohexane (15 mL, 19.5 mmol) was added slowly to the mixture keeping the temperature below −60° C. 1-Iododecane (6.32 g, 23.6 mmol, 1.8 eq.) was then added slowly to the reaction mixture. The mixture was warmed to 0° C. and was stirred for three hours. The reaction was then quenched with NH4Cl (saturated, 20 mL). The mixture was warmed to room temperature and the THF was removed by rotary evaporation. The resulting solution was extracted with ethyl acetate (50 mL). The organic layer was separated and dried over Na2CO3. The solvent was removed and the resulting residue was purified by column chromatography (silica, ethyl acetate/hexane=2/8 then 4/6) to provide the pure product (3.46 g, 73% yield). 1H NMR (CDCl3) δ=5.8 (m, 1H), 5.0 (m, 2H), 4.1 (m, 4H), 2.2 (m, 2H), 1.8-1.2 (m, 27H), 0.9 (t, 3 H). 31P NMR (CDCl3) δ=35.8.

reactant | 4-pentenyl phosphonic acid diethyl ester | 13.7 mmol, 2.832 g | C(C)OP(OCC)(=O)CCCC=C | C9H19O3P
reactant | sec-butyl lithium | C(C)(CC)[Li]
reactant | cyclohexane | 19.5 mmol, 15 mL | C1CCCCC1 | C6H12
reactant | 1-Iododecane | 23.6 mmol, 6.32 g, 1.8 eq. | ICCCCCCCCCC | C10H21I
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-pentadecene-5-phosphonic acid diethyl ester | 3.46 g, 73% yield | C(C)OP(OCC)(=O)C(CCC=C)CCCCCCCCCC | C19H39O3P
